US07517873B2
A solution of 0.050 g (0.00016 mole) of (rac)-9-benzyl-2-chloro-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-42), 0.042 g (0.00016 mole) of 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide, 0.046 g (0.00024 mole) of p-toluenesulfonic acid monohydrate in 4.0 mL of 2-propanol was heated at 180 degrees for 2 hours in a microwave reactor. The reaction mixture was concentrated under reduced pressure. The residue was diluted with dichloromethane and washed twice with saturated sodium bicarbonate solution. The aqueous phase was extracted with dichloromethane and the combined organic phases washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with dichloromethane-methanol (100:0-75:25) to give 0.0451 g of (rac)-4-(9-benzyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide (I-42) as white powder. HRMS (ES+) m/z Calcd for C30H37N7O3+H [(M+H)+]: 544.3031. Found: 544.3031.

reactant | (rac)-9-benzyl-2-chloro-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.00016 mole, 0.050 g | C(C1=CC=CC=C1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)Cl | C16H17ClN4O
reactant | 4-amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.00016 mole, 0.042 g | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C14H21N3O2
reactant | p-toluenesulfonic acid monohydrate | 0.00024 mole, 0.046 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4.0 mL | CC(C)O | C3H8O
product | (rac)-4-(9-benzyl-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | 0.0451 g | C(C1=CC=CC=C1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C30H37N7O3
